US05232929
To a solution of 4,6-diphenyl-5-oximino-2-oxopiperidine (700 mg, 2.5 mmol) was added ca. 2 g of wet Raney nickel which had been washed with water (until washings had a neutral pH) followed by ethanol, and the mixture was placed under an atmosphere of hydrogen (40 psi, Parr apparatus) overnight. The mixture was filtered through a pad of diatomaceous earth (Celite (trademark)), and the filter cake was rinsed well with ethanol. The filtrate was concentrated to afford 500 mg of 5-amino-4,6-diphenyl-2-oxopiperidine as a foam.

reactant | 4,6-diphenyl-5-oximino-2-oxopiperidine | 2.5 mmol, 700 mg | C1(=CC=CC=C1)C1CC(NC(C1=NO)C1=CC=CC=C1)=O | C17H16N2O2
catalyst | Raney nickel | ca. 2 g | [Ni] | Ni
product | 5-amino-4,6-diphenyl-2-oxopiperidine | 500 mg | NC1C(CC(NC1C1=CC=CC=C1)=O)C1=CC=CC=C1 | C17H18N2O
